US07932271B2
6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-ylamine
To an ethanol (5 ml) solution of t-butyl[6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]carbamate (370 mg, 0.748 mmol) was added concentrated hydrochloric acid (5 ml). The resulting mixture was stirred at room temperature for 6 hours. The reaction mixture was concentrated under reduced pressure. To the residue thus obtained was added ethyl acetate. The resulting mixture was washed sequentially with saturated sodium bicarbonate and brine. The organic layer thus obtained was dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (210 mg, 0.537 mmol, 71%) as a white powder.

reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | t-butyl[6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]carbamate | 0.748 mmol, 370 mg | C(C)(C)(C)OC(NC1=NC(=CC=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C23H21ClF2N2O4S
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-ylamine | 0.537 mmol, 210 mg, 71% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC(=N1)N)C1=C(C=CC(=C1)F)F | C18H13ClF2N2O2S
